
* nmos inverter resistiv load

* Effect on current through vdd due to varing R

.include /home/krunal/VLSI_LAB/VINAY/t14y_tsmc_025_level3.txt
r1 vd out 1k
m1 out in 0 0 CMOSN l=1u w=1u

*sources
vdd vd 0 dc 3.3 
vin in 0 dc 3.3 pulse(0 3.3 1n .1n .1n 2n 4n)


*varing R resistant

.control
foreach resi 3k 10k 100k
alter r1 = $resi
tran .01n 10n
run
end
.endc

*plotting the output for various w/L (or resistant)

.control
foreach iter 1 2 3
setplot tran$iter
plot -vdd#branch
end
.endc

